US05747423
(a) 2-(5-Chloro-2-thienyl)-5-methyl-4-pyrimidone
2.0 g 5-Chlorothiophene-2-carboxamidine hydrochloride and 1.7 g methyl 2-formylpropionate are added to a 25% solution of potassium methoxide in methanol containing 6.2 g of KOMe. The mixture is stirred for 6 days, then the methanol is evaporated and the residue dissolved in water. Upon addition of hydrochloric acid the product precipitates as a white solid (m.p.>250° C.).

reactant | 5-Chlorothiophene-2-carboxamidine hydrochloride | 2.0 g | Cl.ClC1=CC=C(S1)C(=N)N
reactant | methyl 2-formylpropionate | 1.7 g | C(=O)C(C(=O)OC)C | C5H8O3
reactant | potassium methoxide | C[O-].[K+]
reactant | KOMe | O([K])C
solvent | methanol | 6.2 g | CO | CH4O
product | 2-(5-Chloro-2-thienyl)-5-methyl-4-pyrimidone | ClC1=CC=C(S1)C1=NC=C(C(N1)=O)C | C9H7ClN2OS
